US05486466
To a solution of 32 mg of t-butyl (4R,7S)-12,14-diacetoxy-1,3,4,5,6,7,8,10-octahydro-4-methoxycarbonyl-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-7-carbamate in 3 ml of methanol were added 15 mg of potassium carbonate. After stirring for 30 minutes at room temperature the reaction mixture was diluted with ethyl acetate and washed consecutively with 0.1M pH 7 aqueous sodium phosphate buffer and with brine. The organic layer was dried over sodium sulfate and evaporated in vacuo. The residue was purified by chromatography on silica gel using acetone/n-hexane 1:2 (v/v) as eluent. The purified product was dissolved in methylene chloride and precipitated by slow addition of n-hexane to yield t-butyl (4R,7S)-1,3,4,5,6,7, 8,10-octahydro-12,14-dihydroxy-4-methoxycarbonyl-11-methyl-6,10-dioxo -9,2,5-benzoxathiaazacyclododecine-7-carbamate as a white, amorphous material.

reactant | t-butyl (4R,7S)-12,14-diacetoxy-1,3,4,5,6,7,8,10-octahydro-4-methoxycarbonyl-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-7-carbamate | 32 mg | C(C)(=O)OC=1C=C(C2=C(C(OC[C@@H](C(N[C@@H](CSC2)C(=O)OC)=O)NC(=O)OC(C)(C)C)=O)C1C)OC(C)=O | C25H32N2O11S
reactant | potassium carbonate | 15 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 3 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | t-butyl (4R,7S)-1,3,4,5,6,7, 8,10-octahydro-12,14-dihydroxy-4-methoxycarbonyl-11-methyl-6,10-dioxo -9,2,5-benzoxathiaazacyclododecine-7-carbamate | OC=1C=C(C2=C(C(OC[C@@H](C(N[C@@H](CSC2)C(=O)OC)=O)NC(=O)OC(C)(C)C)=O)C1C)O | C21H28N2O9S
